US07741364B2
1-{4-[2-(2-fluoro-phenyl)-5-methyl-pyrrol-1-yl]-benzenesulfonyl}-piperidine
2-Fluorobenzaldehyde and but-3-en-2-one were treated according to the procedure outlined in General Procedure C followed by subjecting the resulting product to conditions outlined in General Procedure D along with p-piperidinylsulfonyl phenylamine to obtain the titled compound. 1H NMR (CDCl3) δ ppm 1.42-1.65 (6H), 2.15 (3H), 2.95 (4H), 6.15 (1H), 6.40 (1H), 6.65-7.90 (8H); MS (ESI) m/z 399 (M+H).

reactant | 2-Fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | but-3-en-2-one | CC(C=C)=O | C4H6O
reactant | p-piperidinylsulfonyl phenylamine | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)N | C11H16N2O2S
product | 1-{4-[2-(2-fluoro-phenyl)-5-methyl-pyrrol-1-yl]-benzenesulfonyl}-piperidine | FC1=C(C=CC=C1)C=1N(C(=CC1)C)C1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C22H23FN2O2S
